US05539114
A solution of p-chlorophenyl isocyanate (15.3 g, 0.10 mol) in toluene (50 ml) is metered at room temperature into a solution of methyl anthranilate (15.1 g, 0.10 mol) in toluene (100 ml). After addition is complete, the mixture is stirred at 90° C. for 2 hours. Triethylamine (1.4 ml, 1.0 g, 0.010 mol) is metered in and the mixture is stirred at 90° C. for a further 3 hours. After cooling, the product is filtered off with suction and washed with 3×20 ml of toluene and dried. 21.0 g of 3-(4-chlorophenyl)-2,4(1H,3H)-quinazolinedione (yield: 77.0% of theory) of melting point 288° to 290° C. are obtained. According to thin-layer chromatography, the product is contaminated with the intermediate ethyl N-(4-chlorophenylcarbamoyl)anthranilate.

reactant | p-chlorophenyl isocyanate | 0.10 mol, 15.3 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | methyl anthranilate | 0.10 mol, 15.1 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | Triethylamine | 0.010 mol, 1.4 ml, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chlorophenyl)-2,4(1H,3H)-quinazolinedione | 21.0 g, yield: 77.0% | ClC1=CC=C(C=C1)N1C(NC2=CC=CC=C2C1=O)=O | C14H9ClN2O2
